US08222416B2
A mixture of N-{4-[1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-phenyl}-methanesulfonamide (150 mg, 0.28 mmol) and tetrabutylammonium fluoride solution in tetrahydrofuran (1 M, 3 ml) was stirred at 45° C. for 96 h. The reaction was quenched with a saturated aqueous ammonium chloride solution (20 mL). The mixture was extracted with ethyl acetate (2×50 mL), washed with a saturated aqueous ammonium chloride solution (3×50 mL), brine, dried over anhydrous sodium sulfate and concentrated in vacuo to afford N-{4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-methanesulfonamide (83 mg, 75%) as a white solid: LC/MS m/e calcd for C21H23N3O2S [M+H]+ 382.50, observed 382.0.

reactant | N-{4-[1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-phenyl}-methanesulfonamide | 0.28 mmol, 150 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC2CCCC2)C2=CC=C(C=C2)NS(=O)(=O)C | C27H27N3O4S2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1 M, 3 ml | O1CCCC1 | C4H8O
product | N-{4-[2-cyclopentyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-phenyl}-methanesulfonamide | 83 mg, 75% | C1(CCCC1)C=C(C1=CC=2C(=NC=CC2)N1)C1=CC=C(C=C1)NS(=O)(=O)C | C21H23N3O2S
